US06509361B1
Step 1: Preparation of Methyl 2-Methoxyisonicotinate
A mixture of methyl 2-chloroisonicotinate (5.23 g, 0.030 mol) and sodium methoxide (2.47 g, 0.045 mol) in 15 mL of dioxane was heated at reflux for 1.5 hours. After the reaction mixture was cooled, water was added and the resulting mixture was extracted with methylene chloride. The organic layer was washed with brine, dried over magnesium sulfate and filtered. The filtrate was concentrated in vacuo to give 3.76 g (75%) of product as a yellow oil: Anal. Calc'd. for C8H9NO3: C, 57.48; H, 5.43; N, 8.38. Found: C, 57.07; H, 5.54; N, 8.34.

reactant | methyl 2-chloroisonicotinate | 0.030 mol, 5.23 g | ClC=1C=C(C(=O)OC)C=CN1 | C7H6ClNO2
reactant | sodium methoxide | 0.045 mol, 2.47 g | C[O-].[Na+]
reactant | water | O | H2O
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | Methyl 2-Methoxyisonicotinate | 3.76 g, 75% | COC=1C=C(C(=O)OC)C=CN1 | C8H9NO3
